US04499079
1-(1-Cyclopenten-1-yl)pyrrolidine and 2-butynedioic acid, dimethyl ester are reacted according to the procedure set forth in J.O.C., Vol. 28, p. 1464 (1963) to yield 3-(1-pyrrolidinyl)-2,7-cycloheptadiene-1,2-dicarboxylic acid, dimethyl ester.

reactant | 1-(1-Cyclopenten-1-yl)pyrrolidine | C1(=CCCC1)N1CCCC1 | C9H15N
reactant | 2-butynedioic acid, dimethyl ester | C(C#CC(=O)OC)(=O)OC | C6H6O4
product | 3-(1-pyrrolidinyl)-2,7-cycloheptadiene-1,2-dicarboxylic acid, dimethyl ester | N1(CCCC1)C1=C(C(=CCCC1)C(=O)OC)C(=O)OC | C15H21NO4
